US09422319B2
5-Hydroxy-2,4,6-trimethylindan-1-one
Solution of 2,6-dimethylphenol (36.65 g, 0.3 mol) in CH2Cl2 (100 ml) was added to well stirred suspension of AlCl3 (120 g, 0.9 mol) in CH2Cl2 (200 ml). After 20 min, 2-bromoisobutyryl bromide (69 g, 0.3 mol) was added. Reaction mixture was stirred for 3 days, poured into HCl/crashed ice, organic phase was separated, water phase was extracted by CH2Cl2 (3×100 ml), combined organic fraction was washed by water, dried over MgSO4, and evaporated. Ether (70 ml) and hexane (70 ml) were added, resulting crystalline precipitate was filtered off and dried in vacuo. The yield 15.8 g (27.7%).

reactant | 2,6-dimethylphenol | 0.3 mol, 36.65 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | AlCl3 | 0.9 mol, 120 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-bromoisobutyryl bromide | 0.3 mol, 69 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-2,4,6-trimethylindan-1-one | OC=1C(=C2CC(C(C2=CC1C)=O)C)C | C12H14O2
